### PR TITLE
[Merged by Bors] - feat: corollary of Chinese Remainder Theorem

### PR DESCRIPTION
**Pull request by kbuzzard**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

The nontrivial part of CRT (R / Inter J_i \iso prod R/J_i) is surjectivity. In `RingTheory/DedekindDomain/Ideal.lean` we have variants of CRT (valid when the J_i are `Prime` rather than maximal, although `Prime` implies maximal in a Dedekind domain...) but we also have various surjectivity statements as corollaries (e.g. `IsDedekindDomain.exists_representative_mod_finset`, `IsDedekindDomain.exists_forall_sub_mem_ideal`). I couldn't find these corollaries for a general commutative ring so I've added two (ironically in my application R is a Dedekind domain but I didn't want to assume it when unnecessary).

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/QuotientOperations.lean [hunk 1]
```diff
@@ -237,13 +237,32 @@ lemma quotientInfToPiQuotient_surj [Finite ι] {I : ι → Ideal R}
...
+    ∃ r : R, ∀ i, r = x i := by
+  obtain ⟨y, rfl⟩ := Ideal.quotientInfToPiQuotient_surj hf x
+  obtain ⟨r, rfl⟩ := Ideal.Quotient.mk_surjective y
+  exact ⟨r, fun i ↦ rfl⟩
+
+-- variant of `IsDedekindDomain.exists_forall_sub_mem_ideal` which doesn't assume Dedekind domain!
+/-- Corollary of Chinese Remainder Theorem: if `Iᵢ` are pairwise coprime ideals in a
+commutative ring then given elements `xᵢ` you can find `r` with `r - xᵢ ∈ Iᵢ` for all `i`. -/
+lemma exists_forall_sub_mem_ideal {R : Type*} [CommRing R] {ι : Type*} [Finite ι]
+    {I : ι → Ideal R} (hI : Pairwise fun i j ↦ IsCoprime (I i) (I j)) (x : (i : ι) → R) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/QuotientOperations.lean:261]:
```suggestion
    {I : ι → Ideal R} (hI : Pairwise fun i j ↦ IsCoprime (I i) (I j)) (x : ι → R) :
```

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
